US09227970B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (112 mg, 309 μmol), pyrrolidine (220 mg, 256 μl, 3.09 mmol), propylphosphonic anhydride in ethyl acetate 50% (492 mg, 455 μl, 773 μmol) and N,N-diisopropylethylamine (120 mg, 158 μl, 927 μmol) in tetrahydrofuran (7.00 ml) was refluxed for 18 hours. The solvent was evaporated, the residue was triturated with saturated aqueous sodium hydrogencarbonate. The precipitated solid was filtered off, washed with water and dried in vacuo, affording 2-methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide (45 mg, 35%) as brown solid. Mp.: 210° C. MS: m/z=416.1 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 309 μmol, 112 mg | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | pyrrolidine | 3.09 mmol, 256 μl, 220 mg | N1CCCC1 | C4H9N
reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | ethyl acetate | 773 μmol, 455 μl, 492 mg | C(C)(=O)OCC | C4H8O2
reactant | N,N-diisopropylethylamine | 927 μmol, 158 μl, 120 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 7.00 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide | 45 mg, 35% | C1(=CC=CC=C1)C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCCC2)C)=N1 | C22H21N7O2
